datasets/RMG-dataset.csv
rxn,Ea
[N:0]([N:1]([O:2])[H:5])([H:3])[H:4]>>[N:0]([H:3])[H:4].[N:1](=[O:2])[H:5],147.347928
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[C:11]([C:12]([C:13]([H:25])([H:26])[H:27])=[C:14]([C:15]([H:28])([H:29])[H:30])[c:16]1[c:17]([H:31])[c:18]([H:32])[c:19]([H:33])[c:20]([H:34])[c:21]1[H:35])([H:22])([H:23])[H:24]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([H:7])[C:12]([C:11]([H:22])([H:23])[H:24])([C:13]([H:25])([H:26])[H:27])[C:14]([C:15]([H:28])([H:29])[H:30])[c:16]1[c:17]([H:31])[c:18]([H:32])[c:19]([H:33])[c:20]([H:34])[c:21]1[H:35])[H:6])([H:4])[H:5],52.6347
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[H:11]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([H:7])[H:11])[H:6])([H:4])[H:5],0.518816
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:16])[H:17])[H:15])=[C:5]([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:18])[H:14])([H:12])[H:13].[C:24](=[C:25]([C:26]([C:27]([H:32])([H:33])[H:34])[H:31])[H:30])([H:28])[H:29]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:16])[H:17])[H:15])([C:5]([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:18])[C:26]([C:25](=[C:24]([H:28])[H:29])[H:30])([C:27]([H:32])([H:33])[H:34])[H:31])[H:14])([H:12])[H:13],53.8899
[C:3](=[O:4])[H:5].[O:0]=[C:1]=[O:2]>>[O:0]([C:1]=[O:2])[C:3](=[O:4])[H:5],153.67832
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])[H:7])([H:5])[H:6].[C:13]([C:14]([C:15]([H:20])([H:21])[H:22])[C:16]([H:23])([H:24])[H:25])([H:17])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])[H:9])[H:7])([H:5])[H:6].[H:8][C:14]([C:13]([H:17])([H:18])[H:19])([C:15]([H:20])([H:21])[H:22])[C:16]([H:23])([H:24])[H:25],-10.46
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])[H:5].[S:12][H:13]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[H:6])([H:4])[H:5].[H:7][S:12][H:13],0.4
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:16])[H:17])[H:15])=[C:5]([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:18])[H:14])([H:12])[H:13].[C:24](=[C:25]([C:26]([C:27](=[C:28]([H:34])[H:35])[H:33])[H:32])[H:31])([H:29])[H:30]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:16])[H:17])[H:15])([C:5]([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:18])[C:26]([C:25](=[C:24]([H:29])[H:30])[H:31])([C:27](=[C:28]([H:34])[H:35])[H:33])[H:32])[H:14])([H:12])[H:13],73.8894
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:13])([H:14])[H:15])[c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:12])[H:11].[C:21]([C:22]([C:23]([H:33])([H:34])[H:35])[c:24]1[c:25]([H:36])[c:26]([H:37])[c:27]([H:38])[c:28]([H:39])[c:29]1[H:40])([H:30])([H:31])[H:32]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[C:22]([C:21]([H:30])([H:31])[H:32])([C:23]([H:33])([H:34])[H:35])[c:24]1[c:25]([H:36])[c:26]([H:37])[c:27]([H:38])[c:28]([H:39])[c:29]1[H:40])[H:12])[H:11],38.4928
[C:0]1([H:3])([H:4])[C:1]([H:5])([H:6])[O:2]1.[O:7]>>[C:0]1([H:4])[C:1]([H:5])([H:6])[O:2]1.[H:3][O:7],21.966
[C:0]([C:1]([N:2][H:8])([H:6])[H:7])([H:3])([H:4])[H:5]>>[C:0]([H:3])([H:4])[H:5].[C:1](=[N:2][H:8])([H:6])[H:7],98.324
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])[H:11])[H:7].[C:15]([C:16]([C:17]([H:27])([H:28])[H:29])[c:18]1[c:19]([H:30])[c:20]([H:31])[c:21]([H:32])[c:22]([H:33])[c:23]1[H:34])([H:24])([H:25])[H:26]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])([H:11])[C:16]([C:15]([H:24])([H:25])[H:26])([C:17]([H:27])([H:28])[H:29])[c:18]1[c:19]([H:30])[c:20]([H:31])[c:21]([H:32])[c:22]([H:33])[c:23]1[H:34])[H:7],26.9868
[O:0][N:1]=[O:2].[c:3]1([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]([H:12])[c:7]([H:13])[c:8]1[H:14]>>[O:0]([N:1]=[O:2])[H:9].[c:3]1[c:4]([H:10])[c:5]([H:11])[c:6]([H:12])[c:7]([H:13])[c:8]1[H:14],179.912
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[S:4][H:9])[H:5].[C:10]([C:11]([C:12]([H:18])([H:19])[H:20])([S:13][H:21])[H:17])([H:14])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([S:4][H:9])[H:17])[H:5].[C:10]([C:11]([C:12]([H:18])([H:19])[H:20])[S:13][H:21])([H:14])([H:15])[H:16],35.3548
[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:12])([H:13])[H:14])[C:6](=[C:7]([H:16])[H:17])[H:15])[H:8].[C:18]([c:19]1[c:20]([H:27])[c:21]([H:28])[c:22]([H:29])[c:23]([H:30])[c:24]1[H:31])([H:25])[H:26]>>[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([C:5]([H:12])([H:13])[H:14])([C:6](=[C:7]([H:16])[H:17])[H:15])[C:18]([c:19]1[c:20]([H:27])[c:21]([H:28])[c:22]([H:29])[c:23]([H:30])[c:24]1[H:31])([H:25])[H:26])[H:8],36.5682
